US09359362B2
(rac)-Diethyl 7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2,6-dicarboxylate
(rac)-Diethyl 7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2,6-dicarboxylate (200 mg, 0.52 mmol), 3-(trifluoromethyl)phenylboronic acid (199 mg, 1.05 mmol, 2 eq.), anhydrous copper(II) acetate (190 mg, 1.05 mmol, 2 eq.) and molecular sieve (500 mg, 4 Å) were initially charged. Under an atmosphere of argon protective gas, abs. dichloromethane (5 ml), pyridine (170 μl, 2.10 mmol, 4 eq.) and triethylamine (146 μl, 1.05 mmol, 2 eq.) were added. After 24 h of stirring, the mixture was filtered through kieselguhr, the filter residue was washed with dichloromethane and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (32.7 mg, 12% of theory).

reactant | (rac)-Diethyl 7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2,6-dicarboxylate | 0.52 mmol, 200 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C(=O)OCC)C)C(=O)OCC | C19H19N5O4
reactant | 3-(trifluoromethyl)phenylboronic acid | 1.05 mmol, 199 mg, 2 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 2.10 mmol, 170 μl, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 1.05 mmol, 146 μl, 2 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 1.05 mmol, 190 mg, 2 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (rac)-Diethyl 7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-2,6-dicarboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)C(=O)OCC)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C26H22F3N5O4
